US07244843B2
Step B. Preparation of Methyl 2-(1-methoxy-1-oxopropan-2-yl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate
Sodium hydride (60% oil dispersion, 0.51 g, 12.4 mmol) was added to a stirring solution of (R)-methyl 1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate (1.3 g, 6.2 mmol) in DMF (13 ml). After stirring for 30 min at ambient temperature, methyl 2-bromopropionate (1.1 ml, 9.3 mmol) was added. After stirring at 40° C. for 2 h, the reaction was removed from the heat and quenched with water. The reaction mixture was transferred to a separatory funnel with EtOAc/water. Extraction with EtOAc (2×) and washing the combined organic layers with saturated NaHCO3, water, and brine and drying over MgSO4 afforded 2.0 g of crude product after evaporation of the solvent. Flash chromatography (SiO2, hexanes to 80% EtOAc in hexanes) afforded Isomer A (0.53 g, 29% yield), Isomer B (0.28 g, 15% yield) and a mixture of the two isomers (0.28 g, 15% yield). All have MS (ESI) 292 (M+H).

reactant | Sodium hydride | 12.4 mmol, 0.51 g | [H-].[Na+]
reactant | (R)-methyl 1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 6.2 mmol, 1.3 g | O=C1N[C@H](CC2=CC=CC=C12)C(=O)OC | C11H11NO3
reactant | methyl 2-bromopropionate | 9.3 mmol, 1.1 ml | BrC(C(=O)OC)C | C4H7BrO2
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(1-methoxy-1-oxopropan-2-yl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 29% yield | COC(C(C)N1C(C2=CC=CC=C2CC1C(=O)OC)=O)=O | C15H17NO5
